US06090825
A suspension of 1-acetyl-4-piperidine carboxylic acid (93 g, 542 mmol) in CH2Cl2 (700 mL) is treated portionwise at 23° C. with carbonyldiimidazole (80 g, 542 mmol). The solution is allowed to stir at 23° C. under N2 for 1.5 h, then treated with 2-aminoacetophenone hydrochloride (93 g, 542 mmol) and diisopropylethylamine (113 mL, 650 mmol). The orange solution is stirred for 15 h, then washed with 2 N NaOH (2×200 mL), 2 N HCl (2×200 mL), and brine (1×300 mL), dried (MgSO) and concentrated to a red solid. The solid is dissolved in hot MeOH, and addition of hexane gave a pale orange solid which is obtained by filtration. The mother liquid is concentrated, the residue taken up in hot MeOH, and another crop of product is obtained by addition of hexane, to give a combined yield of 122 g of 1-Acetyl-piperidine-4-carboxylic acid (2-oxo-2-phenyl-ethyl)-amide as a pale orange solid.

reactant | 1-acetyl-4-piperidine carboxylic acid | 542 mmol, 93 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | carbonyldiimidazole | 542 mmol, 80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminoacetophenone hydrochloride | 542 mmol, 93 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | diisopropylethylamine | 650 mmol, 113 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-piperidine-4-carboxylic acid (2-oxo-2-phenyl-ethyl)-amide | yield of 122 g | O=C(CNC(=O)C1CCN(CC1)C(C)=O)C1=CC=CC=C1 | C16H20N2O3
